US04615726
9 g (0.031 mole) of 2-(2-ethoxycarbonylphenyl)-5-isopropyl-5-methyl-4-oxo-2-imidazoline are dissolved in 30 ml of absolute methylene chloride, and 2.7 g (0.038 mole) of ethyl isocyanate and 0.5 ml of DBU are added at room temperature. After a reaction time of 1 hour, the mixture is poured onto ice and the organic phase is washed twice with water, dried and evaporated. 11.0 g (98% of theory) of 2-(2-ethoxycarbonylphenyl)-1-N-ethylcarbamoyl-5-isopropyl-5-methyl-4-oxo-2-imidazoline are obtained as colorless tablets of melting point 85°-87° C.

reactant | 2-(2-ethoxycarbonylphenyl)-5-isopropyl-5-methyl-4-oxo-2-imidazoline | 0.031 mole, 9 g | C(C)OC(=O)C1=C(C=CC=C1)C=1NC(C(N1)=O)(C)C(C)C | C16H20N2O3
reactant | ethyl isocyanate | 0.038 mole, 2.7 g | C(C)N=C=O | C3H5NO
reactant | DBU | 0.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-ethoxycarbonylphenyl)-1-N-ethylcarbamoyl-5-isopropyl-5-methyl-4-oxo-2-imidazoline | 11.0 g, 98% | C(C)OC(=O)C1=C(C=CC=C1)C=1N(C(C(N1)=O)(C)C(C)C)C(NCC)=O | C19H25N3O4
